US06323235B1
3-(2-(2,2-ethylenedioxy-2-phenylethoxy)ethyl)-7-hydroxybenzofuran
3-(2-(2,2-ethylenedioxy-2-phenylethoxy)ethyl)-7-tetrahydropyranyloxybenzofuran (239 mg) was dissolved in THF (3 ml). To this solution, 6N hydrochloric acid (1 ml) was added and the resulting solution was stirred at room temperature for 30 minutes. The reaction solution was poured into water layer (30 ml) and extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=2/1) using silica gel to obtain the desired compound (189 mg, yield: 98%).

reactant | 3-(2-(2,2-ethylenedioxy-2-phenylethoxy)ethyl)-7-tetrahydropyranyloxybenzofuran | 239 mg | C1OC(COCCC2=COC3=C2C=CC=C3OC3OCCCC3)(C3=CC=CC=C3)OC1 | C25H28O6
reactant | hydrochloric acid | 6N, 1 ml | Cl | ClH
reactant | water | 30 ml | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-(2-(2,2-ethylenedioxy-2-phenylethoxy)ethyl)-7-hydroxybenzofuran | 189 mg, yield: 98% | C1OC(COCCC2=COC3=C2C=CC=C3O)(C3=CC=CC=C3)OC1 | C20H20O5
